US07452886B2
A mixture of (E)-4-methoxy-but-3-en-2-one (20 mmol) and ethyl difluoroacetate (24 mmol) is added dropwise to a mixture of potassium tert-butoxide (26 mmol) and diethyl ether (50 ml) under nitrogen atmosphere at −15° C. over 30 min. The mixture is allowed to warm up to room temperature slowly over 3 h. After cooling to 0° C., acetic acid (26 mmol) and H2O (10 ml) are successively added dropwise to the reaction mixture. The organic layer is separated, washed with sat. aq. NaHCO3, dried over MgSO4, and evaporated in vacuo. The residue is dissolved in i-propanol (30 ml). To the solution, conc. HCl (2 ml) is added and the mixture is refluxed for 3 h. After cooling, the reaction mixture is neutralised with sat. aq. NaHCO3 and extracted with CH2Cl2. The organic layer is dried over MgSO4 and evaporated in vacuo. The residue is dissolved in i-propanol (20 ml). To the solution, 28% aq. NH3 (50 mmol) is added and the mixture is refluxed for 20 h. After cooling, the reaction mixture is diluted with H2O and extracted with AcOEt. The organic layer is dried over MgSO4 and evaporated in vacuo. The residue is purified by silica gel column chromatography (n-hexane:AcOEt=1:1) to give 2-difluoromethyl-pyridin-4-ol in 32% yield.

reactant | (E)-4-methoxy-but-3-en-2-one | 20 mmol | CO/C=C/C(C)=O | C5H8O2
reactant | ethyl difluoroacetate | 24 mmol | FC(C(=O)OCC)F | C4H6F2O2
reactant | potassium tert-butoxide | 26 mmol | CC(C)([O-])C.[K+]
reactant | acetic acid | 26 mmol | C(C)(=O)O | C2H4O2
reactant | NH3 | 50 mmol | N | H3N
solvent | H2O | O | H2O
solvent | H2O | 10 ml | O | H2O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2-difluoromethyl-pyridin-4-ol | 32% yield | FC(C1=NC=CC(=C1)O)F | C6H5F2NO
